US07399765B2
5-Phenyl-[1,3,4]oxadiazole-2-thiol (Aldrich, 3.1 g, 17.4 mmol) was added to EtOH (30 mL) and cooled to 0° C. while stirring. Diisopropylethylamine (3.1 mL, 17.4 mmol) was then added and the mixture became a clear solution. Benzyl bromide (2.08 mL, 17.4 mmol) was added and the resulting mixture was allowed to warm to room temperature while stirring. After 45 min, a thick white precipitate formed. The mixture was stirred an additional 1 hr followed by the addition of 1M NaOH (3 mL). The mixture was filtered, washed with 1M NaOH (2×20 mL), 3% citric acid (2×20 mL), H2O (2×20 mL) and the precipitate was dried under vacuum to afford 4.31 g (92%) 2-benzylsulfanyl-5-phenyl-[1,3,4]oxadiazole as a white solid. 1H NMR (CDCl3, 300 MHz) δ 4.57 (s, 2H), 7.37 (m, 3H), 7.48 (m, 5H), 7.99 (m, 2H); MS (DCl/NH3) m/z 269 (M+H)+.

reactant | 5-Phenyl-[1,3,4]oxadiazole-2-thiol | 17.4 mmol, 3.1 g | C1(=CC=CC=C1)C1=NN=C(O1)S | C8H6N2OS
reactant | Diisopropylethylamine | 17.4 mmol, 3.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Benzyl bromide | 17.4 mmol, 2.08 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaOH | 1M, 3 mL | [OH-].[Na+]
solvent | EtOH | 30 mL | CCO | C2H6O
product | 2-benzylsulfanyl-5-phenyl-[1,3,4]oxadiazole | 4.31 g, 92% | C(C1=CC=CC=C1)SC=1OC(=NN1)C1=CC=CC=C1 | C15H12N2OS
